US04435205
Preparation of N-methyl-N-(2-nitrophenyl)methanesulfonamide
To 3.2 g of N-methyl methanesulfonamide in 50 ml of dry dimethylformamide is added 1.47 g of potassium methoxide. The mixture is stirred for 15 minutes. 2.8 g of 2-Fluoronitrobenzene is added and the mixture is heated to reflux for two hours. The dimethylformamide is removed on a rotary evaporator. The concentrated reaction mixture is poured into water. The crude product is extracted with CH2Cl2. The crude extracts are dried with MgSO4, filtered and concentrated on a rotary evaporator. The crude product is purified by recrystallization from butyl chlorideethyl acetate. 3.4 g of product with m.p. 144°-145° C. is obtained.

reactant | N-methyl methanesulfonamide | 3.2 g | CNS(=O)(=O)C | C2H7NO2S
reactant | potassium methoxide | 1.47 g | C[O-].[K+]
reactant | 2-Fluoronitrobenzene | 2.8 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-methyl-N-(2-nitrophenyl)methanesulfonamide | 3.4 g | CN(S(=O)(=O)C)C1=C(C=CC=C1)[N+](=O)[O-] | C8H10N2O4S
